US06242443B1
b) 3-Isopropylamino-6-methanesulfonyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
To a stirred mixture of N-(2-amino-4-(methanesulfonyl)benzenesulfonyl)-N′-isopropylthiourea (3.0 g) and triethylamine (1.7 g) in 30 ml of dry THF at 0° C. was added 5.2 ml of a 20% solution of phosgene in toluene during 5 min. The mixture was stirred at 0° C. for 1 h and then evaporated in vacuo. The white, solid residue was triturated with 50 ml of water for 45 min. and then the product was isolated by filtration. The filter cake was rinsed on the filter with water and dried to give the title compound as white crystals; m.p. >300° C.

reactant | N-(2-amino-4-(methanesulfonyl)benzenesulfonyl)-N′-isopropylthiourea | 3.0 g | NC1=C(C=CC(=C1)S(=O)(=O)C)S(=O)(=O)NC(=S)NC(C)C | C11H17N3O4S3
reactant | triethylamine | 1.7 g | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Isopropylamino-6-methanesulfonyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | C(C)(C)NC1=NS(C2=C(N1)C=C(C=C2)S(=O)(=O)C)(=O)=O | C11H15N3O4S2
